US08703922B2
Synthesis of mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)xylitol
1.0 g (2.8 mmol) of methyl 5,9,13,17-tetramethyloctadec-4-enoate was slowly added dropwise to a solution of 0.86 g (2.8 mmol) of xylitol and 0.78 g (5.7 mmol) of potassium carbonate in dry N,N-dimethylformamide (2.5 mL) at 80° C. After the reaction mixture was stirred at 100° C. for 24 hours, the potassium carbonate was separated by filtration. The resulting solution was diluted with t-butylmethylether, and washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over magnesium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (methanol/methylene chloride mixture) to obtain 146 mg of the title compound (12% yield) as a colorless viscous product.

reactant | methyl 5,9,13,17-tetramethyloctadec-4-enoate | 2.8 mmol, 1.0 g | CC(=CCCC(=O)OC)CCCC(CCCC(CCCC(C)C)C)C | C23H44O2
reactant | xylitol | 2.8 mmol, 0.86 g | C([C@H](O)[C@@H](O)[C@H](O)CO)O | C5H12O5
reactant | potassium carbonate | 5.7 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)xylitol | 146 mg, 12% yield | CC(=CCCC(=O)OC[C@H](O)[C@@H](O)[C@H](O)CO)CCCC(CCCC(CCCC(C)C)C)C | C27H52O6
